Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Atorvastatin
 
Attending: ___.
 
Chief Complaint:
Abnormal Stress Testing / Need for Cardiac Catheterization
 
Major Surgical or Invasive Procedure:
Two drug eluting cardiac stents were placed in your Right 
Coronary Arttery (RCA) during a cardiac catheterization to 
relieve vessel blockages.  

 
History of Present Illness:
___ y/o M with PMHx significant for CAD (s/p CABGx2), carotid 
stenosis (s/p stenting), HTN, DM, HL presents for 
pre-catheterization hydration and for cardiac catheterization 
the following day. The patient states that he was recently 
hospitalized ___ for CHF and pneumonia. He had been feeling 
well since his hospitalization. He had a stress test on ___, 
which showed decreased hypotensive response to exercise with 
drop in SBP from 160 to 90 mmHG with reversibility "everywhere" 
and transient LV dilation with exercise. He was told that he 
would need catheterization on ___ and was told to present to 
___ on the evening before for pre-catherization hydration. On 
arrival to the floor, the patient's VS were T 98.2 BP 186/84 HR 
75 RR 20 SaO2 98% on RA. He had no complaints at that time.

On review of systems, the patient did report recent weight gain 
and swelling in his lower extremities. He states that, since his 
hospitalization in ___, he had doubled his lasix dose and had 
noticed decreased leg swelling and a decrease in his weight (260 
-> 228). He states that recently, however, his weight has been 
increasing and he has noticed more swelling in his legs. Also, 
the patient reports red-colored loose stools recently. Review of 
systems was also positive for a recent non-productive cough and 
some chronic numbness/tingling in his distal lower extremities 
___ DM neuropathy.

On review of systems, he denies any prior history of deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, hemoptysis, or red stools. He denies 
recent fevers, chills or rigors. He denies exertional buttock or 
calf pain. He denies headaches, visual changes, sore throat, 
nausea, stomach pains, urinary symptoms, or focal weakness. All 
of the other review of systems were negative.

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
palpitations, syncope or presyncope.
 
Past Medical History:
- Dyslipidemia
- Hypertension
- CAD with CABGx2 (LIMA to LAD and R Radial Artery to ___ diag) 
in ___ and stent to LAD in ___.
- Carotid Artery Stenosis s/p Stenting to LICA (c/b TIA)
- Type II DM with neuropathy and retinopathy
- s/p III degree burn on L foot ___ diabetic PNP (per pt)
- s/p unnoticed fractures of R foot ___ diabetic PNP/charot's
foot (per pt)
- OSA on CPAP
- GERD
 
Social History:
___
Family History:
Father died of malignant hypertension at ___. Multiple paternal 
uncles died early of heart disease. Mother died of aneurysm 
rupture at ___. Several family members on maternal side with DM. 
+FHx of HTN. Denies FHx of cancer.
 
Physical Exam:
VS: T= 98.2 BP= 186/84 HR= 75 RR= 20 O2 sat= 98% on RA
GENERAL: WDWN ___ M in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NC/AT. PERRL, EOMI. No xanthalesma noted.
NECK: Supple; Carotid bruit present on the L; ?Carotid bruit on 
the R. JVD not appreciated.
CARDIAC: RRR. I/VI systolic murmur loudest at the RUSB. No rubs 
or gallops appreciated.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Lungs were clear to 
auscultation bilaterally.
ABDOMEN: Obese, soft, non-tender. Bowel sounds present. 
Difficulty palpating femoral pulses; however, not bruits heard 
over femoral region.
EXTREMITIES: Significant pitting edema in the lower extremities 
bilaterally. +Shiny/tight skin on lower extremities.
SKIN: No ulcers, scars, or xanthomas.
PULSES:
Right: Femoral unable to palp ___ 2+
Left: Femoral unable to palp ___ 2+
 
Pertinent Results:
Admission Labs
WBC-8.2# RBC-4.44* Hgb-11.5* Hct-36.1* MCV-81*# MCH-25.9*# 
MCHC-31.9 RDW-15.9* Plt ___ PTT-21.9* ___
Glucose-260* UreaN-33* Creat-2.6*# Na-143 K-4.1 Cl-103 HCO3-27 
AnGap-17
Calcium-8.7 Phos-3.6 Mg-2.5 Iron-27*

Discharge Labs
WBC-7.9 RBC-3.59* Hgb-9.5* Hct-29.2* MCV-81* MCH-26.4* MCHC-32.5 
RDW-16.5* Plt ___
Glucose-194* UreaN-32* Creat-2.2* Na-142 K-3.6 Cl-105 HCO3-27 
AnGap-14
Calcium-7.9* Phos-3.6 Mg-2.3

Cardiac Biomarkers (post-catheterization)
___ 06:08PM CK(CPK)-95 CK-MB-NotDone
___ 06:25AM CK(CPK)-78 CK-MB-NotDone

Other Labs
Iron-27* calTIBC-373 Ferritn-24* TRF-287
Triglyc-162* HDL-31 CHOL/HD-4.2 LDLcalc-67

Initial ECG - Normal sinus rhythm. A-V conduction delay. Delayed 
R wave transition. T wave inversions in leads V5-V6 and in leads 
I and aVL suggestive of anterolateral myocardial ischemia. 
Compared to the previous tracing of ___ the anterolateral ST 
segment abnormalities are more prominent. Clinical correlation 
is suggested.

Cardiac Cath - COMMENTS:     
1. Selective coronary angiography in this right dominant system 
demonstrated three vessel coronary disease. The LMCA had no 
significant stenoses. The LAD had a 100% stenosis in the 
mid-portion. The ramus had an 80% stenosis at the origin. The Cx 
had a 30% stenosis at the origin, an 80% stenosis at the 
mid-portion and an 80% distal stenosis.
2. Arterial conduit angiography revealed a patent LIMA and 
patent radial artery graft to D1.
3. Successful PTCA and stenting of the mid RCA with a 2.5 x 28mm 
Promus drug eluting stent which was postdilated to 2.75mm.
4. Successful direct stenting of the ostial RCA with a 2.5 x 
15mm Promus drug eluting stent which was postdilated to 2.75mm. 
Final angiography revealed no residual stenosis, no 
angiographically apparent dissection, and TIMI 3 flow. (see PTCA 
comments for details) 
FINAL DIAGNOSIS:    
1. Three vessel coronary artery disease.
2. Patent LIMA-LAD and radial artery-diagonal grafts.
3. Successful PTCA and stenting of the mid RCA.
4. Successful direct stenting of the ostial RCA.

CXR - FINDINGS: In comparison with the study of ___, there 
is again evidence of previous CABG with intact midline sternal 
wires. Cardiomegaly persists, though there is no vascular 
congestion, pleural effusion, or acute focal pneumonia.

 
Brief Hospital Course:
___ y/o M with PMHx of CAD (s/p stent to LAD in ___ and CABGx2 
in ___, carotid stenosis (s/p stenting in ___, DM, HTN, HL 
presents after having an abnormal stress 2 days ago for pre-cath 
hydration and cardiac catheterization tomorrow.

# Coronary Artery Disease - On arrival to the floor, the patient 
denied any recent chest pain.   The patient received 
pre-catheterization hydration per protocol with normal saline 
and bicarbonate.  He also received mucomyst.  He was continued 
on his aspirin, plavix, metoprolol, and simvastatin.  On the 
morning following his admission, the patient underwent cardiac 
catheterization.  He had 2 drug eluting stents placed in his RCA 
(see above for further details).  His post-catheterization 
course was slightly complicated by hypertension, initially 
requiring a nitroglycerine drip.  His blood pressure decreased 
somewhat but still remained above goal.  At discharge, his 
amlodipine was uptitrated in an attempt to get better control of 
his blood pressure.

# Chronic Diastolic Heart Failure - The patient has a history of 
heart failure, with recent echo showing diastolic dysfunction 
with EF of 70%.  The patient did have significant ___ edema on 
exam; however, his lungs were clear.  His lasix were held during 
his pre-catheterization hydration.  After his catheterization 
procedure, he continued to receive hydration.  His creatinine 
was monitored.  After his hydration was complete, he was 
restarted on his home lasix regimen.

# DM - The patient was continued on his home regimen of Lantus 
and Humalog.  He was also continued on his home dose of 
amitriptyline for diabetic neuropathy.

# HTN - The patient was noted to be hypertensive on arrival to 
the floor.  He was continued on his home regimen of norvasc and 
metoprolol tartrate.  After catheterization, he did have some 
hypertension that initally required a nitroglycerine drip and 
later required a one-time dose of PO labetalol.  At discharge, 
the patient's blood pressures were still not at goal.  His 
amlodipine was uptitrated in an attempt to better control his 
blood pressure.

# Questionable Red Stools - On H&P, the patient reported a 
recent history of loose, red stools.  He did not have any stools 
while hospitalized to guaiac.  His hematocrit was monitored and 
was noted to decrease with hydration but to remain basically 
stable after that (36.1 -> 31.2 -> 29.2).  Iron studies were 
consistent with iron deficieny.  The reticulocyte count was not 
elevated.  Further work-up of this problem should be done as an 
outpatient.

# Hyperlipidemia - The patient was continued on his home regimen 
of simvastatin, zetia, and niacin.

 
Medications on Admission:
-Plavix 75 mg daily  
-Zetia 10 mg daily  
-Metoprolol Tartrate 100 mg BID  
-Simvastatin 40 mg daily  
-Norvasc 5 mg daily  
-Lasix 80 mg BID  
-Niacin 500 mg  
-Vitamin E 400 units daily  
-MVI daily  
-Aspirin 325 mg daily  
-Protonix 40 mg daily  
-Natural C+ 643 mg daily  
-Fish Oil 1200 mg daily  
-Lantus 55 units BID  
-Humalog SSI  
-Amitriptyline 25 mg daily  
-Calcium 600+ D BID  
-Potassium  

 
Discharge Medications:
1. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Ezetimibe 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
4. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
6. Furosemide 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Niacin 500 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Vitamin E 400 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

11. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. Vitamin C  Oral
13. Omega-3 Fatty Acids  Oral
14. Humalog  Subcutaneous
15. Amitriptyline 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
16. Calcium 600 + D(3)  Oral
17. Potassium  Oral
18. Lantus  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
-Coronary Artery Disease 
-Hypertension

Secondary Diagnosis
-Diabetes
-Dyslipidemia
-Carotid Artery Stenosis (s/p stenting)
-Obstructive Sleep Apnea
-Gastroesophageal Reflux Disease

 
Discharge Condition:
Stable at time of discharge. No apparent distress. 

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___. You were admitted for a follow-up 
cardiac catheterization after you had an abnormal stress test. 

You underwent a cardiac catheterization procedure which showed 
blockages of two vessels.  Two stents were placed in your right 
coronary artery territory. It is very important that you 
follow-up with all of your appointments as outlined below and 
please continue all of your medications as prescribed. 
 
It is especially critical that you adhere strictly to daily 
anticoagulation therapy with Plavix and Aspirin and to avoid 
risk of any clots near your stents.  

MEDICATION CHANGES:
-Your Amlodipine has been increased to 10mg daily
-Otherwise, please continue all of your other medications as 
previously prescribed before this hospitalization

If you have any recurrent chest pains, shortness of breath, 
palpitations, nausea, vomiting, dizziness, near-fainting 
sensations, fevers, chills or any other immediate health 
concerns then please return to the emergency room or call your 
cardiologist.  
 
Followup Instructions:
___